US08008487B2
5-Cyano-N-[1-(4-methoxyphenyl)ethyl]thieno[2,3-d]pyrimidin-4-amine (Compound 49)
5-Bromo-N-[1-(4-methoxyphenyl)ethyl]thieno[2,3-d]pyrimidin-4-amine (250 mg, 0.69 mmol) and cuprous cyanide (310 mg, 3.4 mmol, 5 eq.) were combined in dry N-methylpyrrolidinone (NMP) (4 mL) and heated to 130° C. for 19 hours. After cooling, the volatiles were removed by Kugelrohr distillation at 0.1 mm and the residue was taken up in EtOAc/2 molar NH4OH. The organic phase was washed with water, brine, dried (Na2SO4) and evaporated. The residue was chromatographed on a 50 mm×250 mm YMC-AQ RP HPLC column eluting with 70 percent acetonitrile (ACN) to give 61 mg (30 percent) of the purified off-white solid.

reactant | 5-Bromo-N-[1-(4-methoxyphenyl)ethyl]thieno[2,3-d]pyrimidin-4-amine | 0.69 mmol, 250 mg | BrC1=CSC=2N=CN=C(C21)NC(C)C2=CC=C(C=C2)OC | C15H14BrN3OS
reactant | N-methylpyrrolidinone | 4 mL | CN1C(CCC1)=O | C5H9NO
product | 5-Cyano-N-[1-(4-methoxyphenyl)ethyl]thieno[2,3-d]pyrimidin-4-amine | 61 mg, 30 percent | C(#N)C1=CSC=2N=CN=C(C21)NC(C)C2=CC=C(C=C2)OC | C16H14N4OS
